US08309562B2
(2-Ethoxy-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine 3.98 g (20.0 mmol) in ethanol 4 mL and concd HCl 3 mL was stirred at room temperature for 14 h. After removal of ethanol, the residue was dissolved in ethyl acetate, and the organic solution was washed with water, satd Na2CO3, and dried over anhydrous MgSO4. After removal of solvent under reduced pressure, the crude product was purified by MPLC (SiO2, EtOAc 0˜100% in hexanes) to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.91-7.94 (m, 1H), 7.54-7.61 (m, 2H), 7.25-7.29 (m, 2H), 7.12-7.16 (m, 1H), 6.90-6.94 (m, 1H), 4.29 (q, J=7.0 Hz, 2H), 3.84 (s, 3H), 3.60 (s, 3H), 1.34 (t, J=7.0 Hz, 3H); LC-MS (ESI+; 310 ([M+H]+)).

reactant | (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 20.0 mmol, 3.98 g | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | ethanol | 4 mL | C(C)O | C2H6O
solvent | HCl | 3 mL | Cl | ClH
product | (2-Ethoxy-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | C(C)OC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C18H19N3O2
